US05929291
60.0 g (0.36 mol) of 2-(2,2,3-trimethylcyclopent-3-enyl)propionaldehyde, prepared from campholenic aldehyde as known per se, and 42.0 g (0.72 mol) of propanal was added successively during 15 min and 2 hours, respectively, to the sodium methylate solution prepared from 0.83 g of sodium and 200 ml of anhydrous methanol, at 10° C. The reaction mixture was stirred at 10° C. for 2 hours and at room temperature for the following 42 hours. After addition of 5 ml of acetic acid the solvent was evaporated in vacuo at the temperature maintained below 50° C. The residue was diluted with 500 ml of MTBE, washed with 2×200 ml of brine, dried (MgSO4), concentrated in vacuo and distilled at 76-95° C./0.1 Torr to give 28.1 g (38%) of 2-methyl-4-(2,2,3-trimethylcyclopent-3-enyl)pent-2-enal. An analytical sample was prepared by flash chromatography on silica gel (eluent: hexane/MTBE 12:1).

reactant | 2-(2,2,3-trimethylcyclopent-3-enyl)propionaldehyde | 0.36 mol, 60.0 g | CC1(C(CC=C1C)C(C=O)C)C | C11H18O
reactant | campholenic aldehyde | CC1=CCC(C1(C)C)CC=O | C10H16O
reactant | propanal | 0.72 mol, 42.0 g | C(CC)=O | C3H6O
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.83 g | [Na] | Na
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 200 ml | CO | CH4O
product | 2-methyl-4-(2,2,3-trimethylcyclopent-3-enyl)pent-2-enal | 28.1 g, 38% | CC(C=O)=CC(C)C1C(C(=CC1)C)(C)C | C14H22O
